US07812197B2
2-(2-{2-[4-(4-Chloro-1,2-diphenyl-but-1-enyl)-phenoxy]ethoxy}-ethoxy)-tetrahydropyran (Compound III, where Pr is tetrahydropyranyl)
4-(4-Chloro-1,2-diphenyl-but-1-enyl)phenol (0.33 g, 0.001 mol) was dissolved in tetrahydrofuran (3 ml) under a nitrogen atmosphere. Sodium hydride (0.036 g, 0.0015 mol) was added to the solution and the mixture was stirred at room temperature for an hour. 2-[2-(2-iodo-ethoxy)-ethoxy)-tetrahydropyran (0.6 g, 0.002 mol) was added and the mixture was refluxed for 3 hours. After cooling and adding water the mixture was extracted three times with ethyl acetate. The organic phase was dried with sodium sulphate and evaporated to dryness. The residue was used in the next reaction step without further purification.

reactant | 4-(4-Chloro-1,2-diphenyl-but-1-enyl)phenol | 0.001 mol, 0.33 g | ClCCC(=C(C1=CC=CC=C1)C1=CC=C(C=C1)O)C1=CC=CC=C1 | C22H19ClO
reactant | Sodium hydride | 0.0015 mol, 0.036 g | [H-].[Na+]
reactant | 2-[2-(2-iodo-ethoxy)-ethoxy)-tetrahydropyran | 0.002 mol, 0.6 g | ICCOCCOC1OCCCC1 | C9H17IO3
reactant | water | O | H2O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 2-(2-{2-[4-(4-Chloro-1,2-diphenyl-but-1-enyl)-phenoxy]ethoxy}-ethoxy)-tetrahydropyran | ClCCC(=C(C1=CC=CC=C1)C1=CC=C(OCCOCCOC2OCCCC2)C=C1)C1=CC=CC=C1 | C31H35ClO4
